US05026864
It is known that 2-chloro-5-aminomethyl-pyridine, an intermediate for the preparation of insecticides, is obtained when, in a first step, 2-chloro-5-chloromethyl-pyridine is reacted with phthalimide in the presence of potassium hydroxide, dimethylformamide and ethanol to give N-(2-chloro-pyridin-5-yl-methyl)-phthalimide and, in a second step, the desired 2-chloro-5-aminomethyl-pyridine is liberated from this using hydrazine hydrate in ethanol (cf. EP-A 302,389, p. 23).

reactant | 2-chloro-5-aminomethyl-pyridine | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | 2-chloro-5-chloromethyl-pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-chloro-pyridin-5-yl-methyl)-phthalimide | ClC1=NC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O2
